US05843939
3,3-dibromo-alpha-(1-methylethylidene)-2-[(5-methyl-isoxazole-3-yl)-aminosulfinyl]-4-oxo-1-azetidine acetic acid benzyl ester (5.61 g; 0.01 mole) was dissolved in chloroform (120 mL), N-bromosuccinimide (7.12 g; 0.04 mole) was added to the reaction mixture and it was stirred for two hours at room temperature. The reaction mixture was evaporated, methylene chloride and n-hexane were added to the dry residue, the precipitate was sucked off and the filtrate was evaporated to a dry residue. The obtained product was purified by flash chromatography with the solvent system petroleum ether-methylene chloride (1:1). There was obtained 2,3,3-tribromo-alpha-(1-methylethylidene)-4-oxo-1-azetidine acetic acid benzyl ester (3.05 g, 61.5%), which was subjected to a reaction with silver tetrafluoroborate in methanol analogously to the reaction described under 1a. After isolation 3,3-dibromo-2-methoxy-alpha-(1-methylethylidene)-4-oxo-1-azetidine acetic acid benzyl ester with spectroscopic data identical to those disclosed under 1a was obtained.

reactant | 3,3-dibromo-alpha-(1-methylethylidene)-2-[(5-methyl-isoxazole-3-yl)-aminosulfinyl]-4-oxo-1-azetidine acetic acid benzyl ester | 0.01 mole, 5.61 g | C(C1=CC=CC=C1)OC(C(N1C(C(C1=O)(Br)Br)S(=O)(N)C1=NOC(=C1)C)=C(C)C)=O | C19H21Br2N3O5S
reactant | N-bromosuccinimide | 0.04 mole, 7.12 g | BrN1C(CCC1=O)=O | C4H4BrNO2
solvent | chloroform | 120 mL | C(Cl)(Cl)Cl | CHCl3
product | 2,3,3-tribromo-alpha-(1-methylethylidene)-4-oxo-1-azetidine acetic acid benzyl ester | 3.05 g, 61.5% | C(C1=CC=CC=C1)OC(C(N1C(C(C1=O)(Br)Br)Br)=C(C)C)=O | C15H14Br3NO3
